US08445684B2
3(R)-[(3-Phenylpropoxy)methyl]pyrrolidine
To a solution of tert-butyl 3(R)-[(3-phenylpropoxy)methyl]pyrrolidine-1-carboxylate (600 mg, 1.88 mmol) in CH2Cl2 (15 mL) was added a mixture of CF3COOH (4.62 g, 40.5 mmol, 21.6 equiv.) and water (0.3 mL) at 0° C. under N2. The solution was stirred overnight at room temperature. After concentration in vacuo, water was added, and the solution was washed with hexane. The water phase was basified with saturated aqueous NaHCO3 solution and extracted with EtOAc. The combined organic phases were dried and concentrated to obtain the product (220 mg, 53%) as a yellow oil. LC-MS (ESI) m/z 220 (M+H+).

reactant | tert-butyl 3(R)-[(3-phenylpropoxy)methyl]pyrrolidine-1-carboxylate | 1.88 mmol, 600 mg | C1(=CC=CC=C1)CCCOC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C19H29NO3
reactant | CF3COOH | 40.5 mmol, 4.62 g, 21.6 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 0.3 mL | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3(R)-[(3-Phenylpropoxy)methyl]pyrrolidine | 220 mg, 53% | C1(=CC=CC=C1)CCCOC[C@H]1CNCC1 | C14H21NO
